US04977144
A mixture of 100 mg ethyl N-(7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-N-(2-cyclohexylethyl)-carbamate in 1 ml of hydrazine monohydrate is heated at 120° in a sealed tube for 24 hours. The solvent is evaporated in vacuo and 5 ml of methanol saturated with ammonia is added to the residue. This is followed by 0.1 ml of a suspension of Raney nickel in methanol saturated with ammonia. The mixture is heated in a sealed tube at 130° for 24 hours. The catalyst is filtered and washed with methanol, and the solvents are evaporated in vacuo to give a residue which is purified by flash chromatography (10% methanol saturated with ammonia/methylene chloride) to give 7-amino-N-(2-cyclohexylethyl)-3H-imidazo[4,5-b]pyridin-5-amine.

reactant | ethyl N-(7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-N-(2-cyclohexylethyl)-carbamate | 100 mg | ClC1=C2C(=NC(=C1)N(C(OCC)=O)CCC1CCCCC1)NC=N2 | C17H23ClN4O2
reactant | hydrazine monohydrate | 1 ml | O.NN
product | 7-amino-N-(2-cyclohexylethyl)-3H-imidazo[4,5-b]pyridin-5-amine | NC1=C2C(=NC(=C1)NCCC1CCCCC1)NC=N2 | C14H21N5
